US08685977B2
tert-butyl 5-chloro-4-(3,4-dichlorophenylthio)-2-fluorobenzoate
tert-butyl 5-chloro-2,4-difluorobenzoate (Preparation 160, 416 mg, 1.68 mmol) was added to a mixture of potassium carbonate (694 mg, 5.02 mmol), 3,4-dichlorothiophenol (300 mg, 1.77 mmol) in DMSO (16.7 mL) and the reaction stirred at room temperature for 18 hours. The reaction was quenched by addition of 0.5 N aqueous NaOH (20 mL) and EtOAc (30 mL) and the mixture partitioned. The aqueous was further extracted with EtOAc (3×10 mL), the organics combined, washed with brine (10 mL), dried (MgSO4), filtered and evaporated to give a yellow solid. Silica gel column chromatography eluting with 9:1 DCM:heptanes resulted in isolation of the title compound as a white solid (571 mg, 83%).

reactant | tert-butyl 5-chloro-2,4-difluorobenzoate | 1.68 mmol, 416 mg | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)F | C11H11ClF2O2
reactant | potassium carbonate | 5.02 mmol, 694 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorothiophenol | 1.77 mmol, 300 mg | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
solvent | DMSO | 16.7 mL | CS(=O)C | C2H6OS
product | tert-butyl 5-chloro-4-(3,4-dichlorophenylthio)-2-fluorobenzoate | 571 mg, 83% | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)SC1=CC(=C(C=C1)Cl)Cl | C17H14Cl3FO2S
